US04166128
To a solution of 13.0 g of methyl 2-(2,6-dichloroanilino)-phenylglycolate in 150 ml of ethanol were added 10 ml of a 5 N aqueous sodium hydroxide solution and the reaction was effected at 80° C. under a nitrogen stream for 1 hour. The ethanol was distilled off under reduced pressure and the residual liquid was diluted with 100 ml of cold water and acidified with a 10% aqueous hydrochloric acid solution. The solid thus deposited was extracted with ether, and the ether extract was washed with water, dried over anhydrous sodium sulfate and then the ether was distilled off at room temperature under reduced pressure. The residue was recrystallized from ether-petroleum ether to give 10.1 g of 2-(2,6-dichloroanilino)phenylglycolic acid. m.p. 140°-142° C. Yield: 81% of theoretical amount.

reactant | methyl 2-(2,6-dichloroanilino)-phenylglycolate | 13.0 g | ClC1=C(NC2=C(C=CC=C2)C(C(=O)OC)O)C(=CC=C1)Cl | C15H13Cl2NO3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(2,6-dichloroanilino)phenylglycolic acid | 10.1 g, Yield: 81% | ClC1=C(NC2=C(C=CC=C2)C(C(=O)O)O)C(=CC=C1)Cl | C14H11Cl2NO3
